US07402595B2
2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
A mixture of 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid (150 mg), potassium carbonate (95 mg), methyl iodide (43 μl) and N,N-dimethylformamide (DMF) (5 ml) was stirred at room temperature for 3 hrs. After diluting with water, the mixture was extracted with ether and the extract was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and ethyl acetate and n-hexane was added to the residue and the mixture was crystallized to give the title compound (96 mg, 62%).

reactant | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 150 mg | C(C1=CC=CC=C1)N1C(C2=CC=C(C=C2C(=C1C(=O)O)C1=CC=CC=C1)Br)=O | C23H16BrNO3
reactant | potassium carbonate | 95 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 43 μl | CI | CH3I
reactant | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-benzyl-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 96 mg, 62% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=CC=C1 | C24H18BrNO3
